US08217029B2
103.i) 4-(3-Fluoro-6-methoxy-[1,5]naphthyridin-4-yl)-[1,4]diazepane-1-carboxylic acid benzyl ester
According to procedure F and starting from [1,4]diazepane-1-carboxylic acid benzyl ester (commercial) and 8-bromo-7-fluoro-2-methoxy-[1,5]naphthyridine, the title compound was isolated as a brown oil (1.62 g, 51%).

reactant | [1,4]diazepane-1-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1CCNCCC1 | C13H18N2O2
reactant | 8-bromo-7-fluoro-2-methoxy-[1,5]naphthyridine | BrC=1C(=CN=C2C=CC(=NC12)OC)F | C9H6BrFN2O
product | 4-(3-Fluoro-6-methoxy-[1,5]naphthyridin-4-yl)-[1,4]diazepane-1-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1CCN(CCC1)C1=C(C=NC2=CC=C(N=C12)OC)F | C22H23FN4O3
